Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
PCN, lexapro, lorazepam, sertraline,sulfa / Sulfa (Sulfonamide 
Antibiotics) / Penicillins / Ativan / Lexapro / sertraline
 
Attending: ___.
 
Chief Complaint:
L open distal radius/ulna fracture
 
Major Surgical or Invasive Procedure:
L distal radius/ulna I&D and ORIF L radius

 
History of Present Illness:
___ with pmhx significant for severe basilar artery stenosis, 
dementia with cognitive impairment, who presents from ___ 
___ with an open left distal ulnar fracture and closed 
distal radius fracture s/p fall. Patient is a poor historian ___ 
dementia. 

She states that she was ambulating at home today and tripped 
over her scooter. She typically uses a wheelchair for 
ambulation.

 
Past Medical History:
- Basilar artery stenosis  
 - Depression with psychotic features  
 - Dementia  
 - HTN  
 - HLD  
 - Gout  
 - Acute angle glaucoma/macular degenation  
 - Hard of hearing  
 - Hypothyroidism  
 - Cholelithiasis  
 - Osteoarthritis of the R knee  
 - Constipation  
 - Pancreatic Cyst  
 - Cataracts  

 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Gen: NAD

Left upper extremity:
- Skin intact, splint in place L forearm, fingers edematous with 
ecchymosis.
- Full, painless AROM/PROM of shoulder, elbow, and digits
- EPL/FPL/DIO (index) fire
- SILT axillary/radial/median/ulnar nerve distributions
- 2s cap refill, fingers WWP
 
Brief Hospital Course:
Hospitalization Summary (ED Admit)
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have an open fracture of her L distal radius and ulna and was 
admitted to the orthopedic surgery service. The patient was 
taken to the operating room on ___ for I&D of the L distal 
radius and ulna and ORIF of the L distal radius fracture, which 
the patient tolerated well. For full details of the procedure 
please see the separately dictated operative report. The patient 
was taken from the OR to the PACU in stable condition and after 
satisfactory recovery from anesthesia was transferred to the 
floor. The patient was initially given IV fluids and IV pain 
medications, and progressed to a regular diet and oral 
medications by POD#1. The patient was given ___ 
antibiotics and anticoagulation per routine. The patient's home 
medications were continued throughout this hospitalization. The 
patient worked with ___ who determined that discharge to rehab 
was appropriate. The patient was initially agitated and 
delirious but improved to her baseline with avoidance of opiate 
pain medications and recommendations from a geriatric consult. 

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
nonweightbearing in the left upper extremity, and will be 
discharged on Aspirin 325mg daily for 14 days for DVT 
prophylaxis. The patient will follow up with Dr. ___ 
routine. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course 
including reasons to call the office or return to the hospital, 
and all questions were answered. The patient was also given 
written instructions concerning precautionary instructions and 
the appropriate follow-up care. The patient expressed readiness 
for discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pravastatin 20 mg PO QPM 
2. Venlafaxine XR 75 mg PO DAILY 
3. amLODIPine 2.5 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Fluticasone Propionate NASAL 1 SPRY NS BID congestion 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. OLANZapine 5 mg PO DAILY 
8. Ursodiol 300 mg PO BID 
9. Pantoprazole 40 mg PO Q24H 

 
Discharge Medications:
1. amLODIPine 2.5 mg PO DAILY 
2. Fluticasone Propionate NASAL 1 SPRY NS BID congestion 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. OLANZapine 5 mg PO DAILY 
5. Pantoprazole 40 mg PO Q24H 
6. Pravastatin 20 mg PO QPM 
7. Ursodiol 300 mg PO BID 
8. Venlafaxine XR 75 mg PO DAILY 
9. Vitamin D 1000 UNIT PO DAILY 
10. Acetaminophen 650 mg PO 5X/DAY Pain 
11. Aspirin 325 mg PO DAILY Duration: 14 Days 
12. Docusate Sodium 100 mg PO BID 
13. Senna 17.2 mg PO BID:PRN constipation 
14. TraMADol 50 mg PO BID 
15. TraMADol 50 mg PO BID:PRN Pain - Moderate 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
L open distal radius/ulna fracture

 
Discharge Condition:
Mental Status: Confused - sometimes. (baseline dementia)
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___,

- ___ were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- Nonweightbearing in the left upper extremity. Remain in splint 
until follow-up.

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so ___ should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take Aspirin 325mg daily for 2 weeks after the 
procedure.

WOUND CARE:
- ___ may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- No dressing is needed if wound continues to be non-draining.
- Splint must be left on until follow up appointment unless 
otherwise instructed
- Do NOT get splint wet

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if ___ experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns

Physical Therapy:
Right lower extremity: Full weight bearing
Left lower extremity: Full weight bearing
Left upper extremity: Non weight bearing
Encourage turning, deep breathing and coughing qhour when awake.

Treatments Frequency:
Splint and ace wrap on L forearm/hand to remain in place until 
follow-up.  
Care: Monitor for increased swelling, elevate forearm above 
heart as much as possible to decrease swelling, monitor for any 
s/s of infection.
 
Followup Instructions:
___